US06083961
To a solution of methyl 4-[(Z)-2-(4-pyridyl)vinyl]-benzoate (570 mg) in methanol (5.7 ml) was added 10% palladium on carbon, and the mixture was stirred for 4 hours at ambient temperature under hydrogen atmosphere. Insoluble material was filtered off, and the filtrate was concentrated in vacuo. The residue was crystallized with n-hexane to give methyl 4-[2-(4-pyridyl)ethyl]benzoate (539 mg).

reactant | methyl 4-[(Z)-2-(4-pyridyl)vinyl]-benzoate | 570 mg | N1=CC=C(C=C1)\C=C/C1=CC=C(C(=O)OC)C=C1 | C15H13NO2
solvent | methanol | 5.7 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | methyl 4-[2-(4-pyridyl)ethyl]benzoate | 539 mg | N1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C15H15NO2
